US05026704
To a solution of 0.2 g (0.97 mmol) 6-methoxy-1-methylquinoxaline-2,3(1H,4H)-dione in 10 ml concentrated sulfuric acid was added at 0° C. 0.1 g (0.99 mmol) potassium nitrate. Stirring was continued at 0° C. for 30 min., and then at 25° C. for 1 h. The reaction mixture was poured into 50 ml ice-water to give a precipitate Recrystallization (dimethylformamide-water) of the crude product gave 0.15 g (62%) 6-methoxy-1-methyl-7-nitroquinoxaline-2,3(1H,4H)-dione. M.p. 356° C. NMR (DMSO-d6): 12.0 (1H, broad s), 7.77 (1H, s), 3.90 (3H, s), 3.47 (3H, s).

reactant | 6-methoxy-1-methylquinoxaline-2,3(1H,4H)-dione | 0.97 mmol, 0.2 g | COC=1C=C2NC(C(N(C2=CC1)C)=O)=O | C10H10N2O3
reactant | potassium nitrate | 0.99 mmol, 0.1 g | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 6-methoxy-1-methyl-7-nitroquinoxaline-2,3(1H,4H)-dione | 0.15 g, 62% | COC=1C=C2NC(C(N(C2=CC1[N+](=O)[O-])C)=O)=O | C10H9N3O5
